US06610705B1
(4-Methoxyphenyl)-(3-methyl-4-(2-hydroxy-3-n-butylaminopropoxy)phenyl)-1,2,3,4-tetrahydro-naphth-1-yl-methane
A mixture of (4-methoxyphenyl)-(3-methyl-4-(2,3-epoxypropyloxy)phenyl)-1,2,3,4-tetrahydronaphth-1-yl-methane (300 mg, 0.001 mol), n-butyl amine (1.0 m, 0.01 mol) and ethanol (15 ml) was refluxed for 8 hrs. Ethanol was distilled off and the residue was passed through a basic alumina column using hexane:ethyl acetate as the eluent. Solvent was distilled off to give the title compound. Yield 212 mg, (60.05%).

reactant | (4-methoxyphenyl)-(3-methyl-4-(2,3-epoxypropyloxy)phenyl)-1,2,3,4-tetrahydronaphth-1-yl-methane | 0.001 mol, 300 mg | COC1=CC=C(C=C1)C(C1CCCC2=CC=CC=C12)C1=CC(=C(C=C1)OCC1CO1)C | C28H30O3
reactant | n-butyl amine | 0.01 mol | C(CCC)N | C4H11N
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | (4-Methoxyphenyl)-(3-methyl-4-(2-hydroxy-3-n-butylaminopropoxy)phenyl)-1,2,3,4-tetrahydro-naphth-1-yl-methane | COC1=CC=C(C=C1)C(C1CCCC2=CC=CC=C12)C1=CC(=C(C=C1)OCC(CNCCCC)O)C | C32H41NO3
